US07598294B2
(E)-1-(3,4-methylenedioxyphenyl)-3-(2,4-dimethoxyphenyl)prop-1-en-3-one (DMU-407)
To a stirred solution of piperonal (1 g, 6.7 mmol) and 2,4-dimethoxyacetophenone (1.21 g, 6.7 mmol) in methanol (30 ml) was added 20 equivalents of aqueous sodium hydroxide (˜11 ml, 50% w/v) and the mixture stirred for 2 h. The resultant solid was collected by filtration and then recrystallised from methanol as pale yellow crystals (0.86 g, 41%): mp 137° C.; 1H NMR δ (CDCl3) 3.9 (3H, s, OCH3), 3.92 (3H, s, OCH3), 6.01 (2H, s, CH2O), 6.50 (2H, dd, ArH), 6.80 (1H, d, ArH), 7.00 (2H, m, ArH), 7.25 (1H, d, J=15.7 Hz, ArH), 7.59 (1H, d, J=15.7 Hz, ArH), 7.70 (1H, d, ArH); 13C NMR δ 101.45, 122.35, 129.93, 148.23, 149.37, 160.29, 164.05, 190.34; Infra red νMAX (KBr)/cm−1 1659.6 (C═O); MS (rel intensity) m/z 313 ([M+H]+, 37%); Anal. Calcd (CO18H16O5): C, 69.23; H, 5.13. Found C, 68.97; H, 5.26.

reactant | piperonal | 6.7 mmol, 1 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | 2,4-dimethoxyacetophenone | 6.7 mmol, 1.21 g | CC(=O)C1=C(C=C(C=C1)OC)OC | C10H12O3
reactant | sodium hydroxide | ˜11 ml, 20 equivalents | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | (E)-1-(3,4-methylenedioxyphenyl)-3-(2,4-dimethoxyphenyl)prop-1-en-3-one | C1OC=2C=C(C=CC2O1)\C=C\C(=O)C1=C(C=C(C=C1)OC)OC | C18H16O5
